US07625903B2
2-Amino-N-(2,2,2-trifluoroethyl)benzamide
A round-bottomed flask was charged with isatoic anhydride (5.0 g, 0.030 mol), 15 mL water, and triethylamine (4.69 mL, 0.033 mol). (2,2,2-trifluoroethyl)amine hydrochloride (4.98 g, 0.036 mol) was added slowly to the reaction mixture. After 16 h, the reaction mixture was concentrated to dryness. The crude product was purified silica gel column (EtOAc/Hexanes) to afford the title compound as a white solid (3.42 g, 51%): Mass (M+H)+=120, 219.

reactant | isatoic anhydride | 0.030 mol, 5.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | triethylamine | 0.033 mol, 4.69 mL | C(C)N(CC)CC | C6H15N
reactant | (2,2,2-trifluoroethyl)amine hydrochloride | 0.036 mol, 4.98 g | Cl.FC(CN)(F)F
solvent | water | 15 mL | O | H2O
product | 2-Amino-N-(2,2,2-trifluoroethyl)benzamide | 3.42 g, 51% | NC1=C(C(=O)NCC(F)(F)F)C=CC=C1 | C9H9F3N2O
